US09108939B2
B: Diethyl 2,5-difluoro-4-nitrobenzylphosphonate
1-(Bromomethyl)-2,5-difluoro-4-nitrobenzene (8.3 g, 32.9 mmol) and triethyl phosphate (12.03 mL) were heated in an oil bath for 2.5 hours at 140° C. Additional triethyl phosphate (5 mL) was added and the reaction was stirred at 140° C. for 1 hour. The reaction mixture was evaporated under reduced pressure and chromatographed on silica eluting with dichloromethane/methanol (1:0-1%) to give the title compound (11 g, 35.6 mmol). 1H NMR (CDCl3, 400 MHz): δ 7.82 (dd, 1H), 7.37 (ddd, 1H), 4.11 (m, 4H), 3.24 (d, 2H), 1.30 (m, 6H)

reactant | 1-(Bromomethyl)-2,5-difluoro-4-nitrobenzene | 32.9 mmol, 8.3 g | BrCC1=C(C=C(C(=C1)F)[N+](=O)[O-])F | C7H4BrF2NO2
reactant | triethyl phosphate | 12.03 mL | P(=O)(OCC)(OCC)OCC | C6H15O4P
reactant | triethyl phosphate | 5 mL | P(=O)(OCC)(OCC)OCC | C6H15O4P
product | Diethyl 2,5-difluoro-4-nitrobenzylphosphonate | 35.6 mmol, 11 g | FC1=C(CP(OCC)(OCC)=O)C=C(C(=C1)[N+](=O)[O-])F | C11H14F2NO5P
